data/oMe_Silver.jsonl
{"reaction_id": "NR-034_1-C(C)(C)C_2-C1CC1_3-c1ccccc1_4-C1CCOC1","name": "Burgess Dehydration","level": "easy","reactants_smiles": ["C(C(C)(C)C)(C1CC1)(O)C(c1ccccc1)(C1CCOC1)","COC(=O)[N-]S(=O)(=O)[N+](CC)(CC)CC"],"products_smiles": ["C(C(C)(C)C)(C1CC1)=C(c1ccccc1)(C1CCOC1)"],"conditions": "Burgess Reagent (the second reactant)","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)[OH+](C(C(C)(C)C)(C1CC1)C(c1ccccc1)(C1CCOC1))","rationale": "The electrophilic sulfur in the Burgess reagent is activated by electron-withdrawing sulfonyl and carbamate groups, allowing nucleophilic attack by the alcohol oxygen to form a sulfamate ester intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)OC(C(C)(C)C)(C1CC1)C(c1ccccc1)(C1CCOC1)","rationale": "Proton transfer from the oxonium intermediate to the carbamate nitrogen neutralizes charge, stabilizing the intermediate and preparing the oxygen for elimination."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(C)(C)C)(C1CC1)=C(c1ccccc1)(C1CCOC1)","rationale": "The sulfamate group is an excellent leaving group due to resonance stabilization and electron-withdrawing substituents, enabling β-elimination to form the alkene under mild conditions."}],"description": "The Burgess reagent, a mild dehydrating agent, reacts with the alcohol to form a sulfamate ester intermediate. Under the reaction conditions, intramolecular elimination occurs, driven by the good leaving group ability of the sulfamate, yielding the alkene product under mild, non-acidic conditions."}
{"reaction_id": "NR-224_1-c1ccccc1","level": "hard","name": "Pinner Reaction","reactants_smiles": ["C(c1ccccc1)#N"],"products_smiles": ["C(c1ccccc1)(=[NH2+])OCC"],"conditions": "HCl, EtOH","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)#[NH+]","step_weight": 0,"rationale": "Protonation of the nitrile nitrogen by HCl increases the electrophilicity of the adjacent carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(=[NH])[OH+](CC)","step_weight": 0,"rationale": "Ethanol, activated by the acidic medium, attacks the electrophilic nitrilium carbon, forming a tetrahedral intermediate stabilized by protonation."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(=[NH2+])OCC","step_weight": 0,"rationale": "Proton transfer to the nitrogen generates a more stable cationic imidate species, facilitating subsequent nucleophilic addition steps."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(N)([NH2])OCC","step_weight": 0,"rationale": "A second nucleophilic addition occurs as ammonia-like nitrogen attacks the electrophilic carbon, driven by the high reactivity of the imidate intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(N)([NH2])[OH+]CC","step_weight": 0,"rationale": "Protonation of the hydroxyl group converts it into a better leaving group by increasing its positive charge, preparing for elimination."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(N)=[NH2+]","step_weight": 0,"rationale": "Loss of the protonated hydroxyl group as water occurs readily under acidic conditions, driven by the stability of the resulting iminium ion."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N=C(N)C(c1ccccc1)","step_weight": 0,"rationale": "Final proton transfer neutralizes the product, yielding the imino ester salt stabilized by resonance between C=N and the adjacent nitrogen."}],"description": "Under strongly acidic conditions, the nitrile nitrogen is protonated, increasing electrophilicity at the carbon. Ethanol attacks, forming an imidate intermediate. Subsequent proton transfers and addition-elimination steps stabilize intermediates and expel leaving groups, yielding the imino ester (Pinner salt) product."}
